US06491989B1
2,3,5,5-Tetrafluoro-6-octyl-5,6,7,8-tetrahydronaphthalen-1-yl 4-Pentylcyclohexanecarboxylate
From 2,3,5,5-tetrafluoro-6-octyl-5,6,7,8-tetrahydronaphthalen-1-ol and 4-pentylcyclohexanecarboxylic acid by means of DCC esterification.

reactant | 2,3,5,5-tetrafluoro-6-octyl-5,6,7,8-tetrahydronaphthalen-1-ol | FC1=C(C=2CCC(C(C2C=C1F)(F)F)CCCCCCCC)O | C18H24F4O
reactant | 4-pentylcyclohexanecarboxylic acid | C(CCCC)C1CCC(CC1)C(=O)O | C12H22O2
reactant | DCC | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
product | 2,3,5,5-Tetrafluoro-6-octyl-5,6,7,8-tetrahydronaphthalen-1-yl 4-Pentylcyclohexanecarboxylate | C(CCCC)C1CCC(CC1)C(=O)OC1=C(C(=CC=2C(C(CCC12)CCCCCCCC)(F)F)F)F | C30H44F4O2
